US07981903B2
To a solution of 2-methyl-4-amino nitro benzene (5.00 g, 32.3 mmol) in dichloromethane (200 mL) was added triethylamine (12 mL, 97 mmol, 3 equiv.), dimethylaminopyridine (ca 500 mg) and dimethylaminoacetyl chloride hydrochloride (6.50 g, 41.1 mmol, 1.25 equiv.). The resulting clear solution was stirred 24 hours, at which time additional dimethylaminoacetyl chloride hydrochloride (1.50 g, 9.5 mmol, 0.30 equiv.) was added. After an additional 24 hrs. the reaction was poured into saturated aqueous sodium bicarbonate. The organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and purified by chromatography on SiO2 (0 to 10% methonal/CH2CL2) to give N2,N2-dimethyl-N1-(4-methyl-3-nitrophenyl)glycinamide (7.0 g, 29.5 mmol, 91% yield) as a brown oil. 1H NMR (400 MHz, CDCl3) δ ppm 2.40 (s, 6 H), 2.55 (s, 3 H), 3.11 (s, 2 H), 7.28 (d, J=8.42 Hz, 1H), 7.86 (dd, J=8.32, 2.29 Hz, 1 H), 8.15 (d, J=2.38 Hz, 1 H), 9.33 (s, 1 H),

reactant | 2-methyl-4-amino nitro benzene | 32.3 mmol, 5.00 g | CC1=C(C=CC(=C1)N)[N+](=O)[O-] | C7H8N2O2
reactant | triethylamine | 97 mmol, 12 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | ca 500 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dimethylaminoacetyl chloride hydrochloride | 41.1 mmol, 6.50 g, 1.25 equiv. | Cl.CN(C)CC(=O)Cl
reactant | dimethylaminoacetyl chloride hydrochloride | 9.5 mmol, 1.50 g, 0.30 equiv. | Cl.CN(C)CC(=O)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N2,N2-dimethyl-N1-(4-methyl-3-nitrophenyl)glycinamide | 29.5 mmol, 7.0 g, 91% yield | CN(CC(=O)NC1=CC(=C(C=C1)C)[N+](=O)[O-])C | C11H15N3O3
